US08492582B2
Under ice-cooling, pyridine (0.010 mL) and acetic anhydride (4.0 μL) were sequentially added to a methylene chloride (1 mL) suspension of the obtained methyl 2-(2-hydroxy-4-(piperidin-4-yloxy)benzamido)-4-phenylbenzoate hydrochloride (0.017 g), followed by stirring at room temperature for 1 hour. Pyridine (0.49 mL) and acetic anhydride (4.0 μL) were sequentially added to the reaction mixture, followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and a 10% aqueous solution of citric acid and ethyl acetate were added to the residue. The organic layer was separated, washed with a 10% aqueous solution of citric acid, and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 0.016 g of methyl 2-(4-((1-acetylpiperidin-4-yl)oxy)-2-hydroxybenzamido)-4-phenylbenzoate as a white solid.

reactant | acetic anhydride | 4.0 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
reactant | methyl 2-(2-hydroxy-4-(piperidin-4-yloxy)benzamido)-4-phenylbenzoate hydrochloride | 0.017 g | Cl.OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)OC1CCNCC1
reactant | acetic anhydride | 4.0 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | Pyridine | 0.49 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.010 mL | N1=CC=CC=C1 | C5H5N
product | methyl 2-(4-((1-acetylpiperidin-4-yl)oxy)-2-hydroxybenzamido)-4-phenylbenzoate | 0.016 g | C(C)(=O)N1CCC(CC1)OC1=CC(=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C1)O | C28H28N2O6
